US07572805B2
Part F. (E)-Ethyl 4-ethyl-2-(3-methoxy-3-oxoprop-1-enyl)-6-(trifluoromethyl)benzoate
To a solution of trimethyl phosphonoacetate (1.60 mL, 9.90 mmol) in 100 mL of THF was added sodium hydride (0.24 g of 60% dispersion in mineral oil, 9.90 mmol) portionwise. The mixture was stirred at ambient temperature for 30 min and then ethyl 4-ethyl-2-formyl-6-(trifluoromethyl)benzoate (1.81 g, 6.60 mmol) as a solution in THF. The reaction mixture was allowed to stir at ambient temperature for 30 min and then was diluted with water. The mixture was extracted with ethyl acetate, washed with brine, dried (MgSO4) and concentrated in vacuo. The residue was purified by flash chromatography (elution with 15% EtOAc/hexane) to afford 2.1 g (96%) of the title compound as an off-white solid. 1H NMR (CDCl3): δ 7.72 (d, 1H, J=15.9 Hz), 7.62 (s, 1H), 7.53 (s, 1H), 6.44 (d, 1H, J=15.9 Hz), 4.45 (q, 2H, J=7.2 Hz), 3.81 (s, 3H), 2.75 (q, 2H, J=7.6 Hz), 1.40 (t, 3H, J=7.2 Hz), 1.28 (t, 3H, J=7.4 Hz).

reactant | trimethyl phosphonoacetate | 9.90 mmol, 1.60 mL | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | sodium hydride | 9.90 mmol, 0.24 g | [H-].[Na+]
reactant | ethyl 4-ethyl-2-formyl-6-(trifluoromethyl)benzoate | 6.60 mmol, 1.81 g | C(C)C1=CC(=C(C(=O)OCC)C(=C1)C(F)(F)F)C=O | C13H13F3O3
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (E)-Ethyl 4-ethyl-2-(3-methoxy-3-oxoprop-1-enyl)-6-(trifluoromethyl)benzoate | 2.1 g, 96% | C(C)C1=CC(=C(C(=O)OCC)C(=C1)C(F)(F)F)\C=C\C(=O)OC | C16H17F3O4
